US05767299
(c) 2-(1-Chloroethoxycarbonyl)-1,3-dipalmitoylglycerol
1,3-Dipalmitoylglycerol (2.5 g, 4.39 mmol) and 1-chloroethyl chloroformate (1.26 g, 8.79 mmol) were dissolved in chloroform (50 ml). To this was added anhydrous pyridine dropwise. The reaction mixture was stirred at ambient temperature for 5 days, diluted with dichloromethane and extracted with 0.5N HCl solution. The organic layer was washed with a saturated sodium bicarbonate solution, washed again with water, dried over sodium sulphate and concentrated to dryness. The waxy residue was dried under reduced pressure and used without further purification.

reactant | 1,3-Dipalmitoylglycerol | 4.39 mmol, 2.5 g | C(CCCCCCCCCCCCCCC)(=O)OCC(O)COC(CCCCCCCCCCCCCCC)=O | C35H68O5
reactant | 1-chloroethyl chloroformate | 8.79 mmol, 1.26 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(1-Chloroethoxycarbonyl)-1,3-dipalmitoylglycerol | ClC(C)OC(=O)OC(COC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCCCCCC)=O | C38H71ClO7
